US06743794B2
5-(3-Aminocyclohexyl)-9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one Hydroiodide
To a solution of [3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)cyclohexyl]carbamic acid methyl ester, 2.0 g (5.1 mmol) in 50 mL of dichloromethane was added 1.74 mL (12.2 mmol) of trimethylsilyliodide. The reaction mixture was stirred overnight at ambient temperature and was quenched dropwise with 3.0 mL (73.4 mmol) of methanol. The mixture was stirred 30 minutes at ambient temperature and was concentrated to dryness. The residue was triturated with ether, filtered and dried to provide a quantitative yield of the desired isomer as a tan solid. 1H—NMR is consistent with structure. MS (ion spray) 332.1 (M+ for free base).

reactant | [3-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)cyclohexyl]carbamic acid methyl ester | COC(NC1CC(CCC1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)=O | C19H20ClN3O4
reactant | trimethylsilyliodide | 12.2 mmol, 1.74 mL | C[Si](C)(C)I | C3H9ISi
reactant | methanol | 73.4 mmol, 3.0 mL | CO | CH4O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-(3-Aminocyclohexyl)-9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one Hydroiodide | quantitative yield | I.NC1CC(CCC1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | InChI=1S/C17H18ClN3O2.HI/c1-9-14-16(20-23-9)15-12(18)6-3-7-13(15)21(17(14)22)11-5-2-4-10(19)8-11;/h3,6-7,10-11H,2,4-5,8,19H2,1H3;1H
